US05559113
3-(1H-Imidazol-4-yl)propyl N-benzoylcarbamate
5 mmol of 3-(1H-imidazol-4-yl)propanol hydrochloride in 10 ml of acetonitrile are maintained at reflux for 2 h with 5 mmol of benzoyl isocyanate. After evaporation under vacuum, the title compound is stirred in water and filtered.

reactant | 3-(1H-imidazol-4-yl)propanol hydrochloride | 5 mmol | Cl.N1C=NC(=C1)CCCO
reactant | benzoyl isocyanate | 5 mmol | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(1H-Imidazol-4-yl)propyl N-benzoylcarbamate | C(C1=CC=CC=C1)(=O)NC(OCCCC=1N=CNC1)=O | C14H15N3O3
